US04511392
5-(2-Aminophenyl)isoxazole
To a suspension containing 206 g of stannous chloride dihydrate in 520 ml of concentrated hydrochloric acid was cautiously added 56 g of 5-(2-nitrophenyl)isoxazole, prepared in Example 2. The resulting suspension was refluxed on a steam bath for about 1 hour, then cooled to 10° C. and filtered. The solid was added to about 600 ml of ice-water, and the suspension was made basic to a pH of about 10 with addition of 50% NaOH. The aqueous mixture was extracted with methylene chloride. After drying the methylene chloride extract over sodium sulfate, the solvent was evaporated under reduced pressure to give 32 g of the title compound as an oil.

reactant | 5-(2-nitrophenyl)isoxazole | 56 g | [N+](=O)([O-])C1=C(C=CC=C1)C1=CC=NO1 | C9H6N2O3
solvent | hydrochloric acid | 520 ml | Cl | ClH
product | 5-(2-Aminophenyl)isoxazole | 32 g | NC1=C(C=CC=C1)C1=CC=NO1 | C9H8N2O
